US05827849
b) 2-Hydroxy-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine dihydrochloride
Prepared from 2-hydroxy-3-ethoxycarbonyl-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine by treatment with hydrochloric acid at 180° C.

reactant | 2-hydroxy-3-ethoxycarbonyl-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | OC=1C(=CC2=C(CCN(CC2)CC2=CC=CC=C2)N1)C(=O)OCC | C19H22N2O3
reactant | hydrochloric acid | Cl | ClH
product | 2-Hydroxy-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine dihydrochloride | Cl.Cl.OC=1C=CC2=C(CCN(CC2)CC2=CC=CC=C2)N1 | InChI=1S/C16H18N2O.2ClH/c19-16-7-6-14-8-10-18(11-9-15(14)17-16)12-13-4-2-1-3-5-13;;/h1-7H,8-12H2,(H,17,19);2*1H
